US08030489B2
To a mixture of 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,4,5-trimethyl-1H-pyrrol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate (0.30 g) and DMF (3.0 ml) were added zinc (0.61 g) and acetic acid (3.0 ml) under ice-cooling, followed by stirring at room temperature for 6 hours. To the reaction mixture was added ethyl acetate and the insolubles were separated by filtration through Celite. The filtrate was concentrated under reduced pressure, and a 1 M aqueous sodium hydroxide solution was added to the residue, followed by washing with diethyl ether. Citric acid was added thereto under ice-cooling, and the solid precipitated was collected by filtration and washed with water to obtain (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,4,5-trimethyl-1H-pyrrol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylic acid (0.19 g).

reactant | 2-oxo-2-phenylethyl (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,4,5-trimethyl-1H-pyrrol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylate | 0.30 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C(=C(C1)C)C)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)OCC(C1=CC=CC=C1)=O | C35H42N4O7
reactant | DMF | 3.0 ml | CN(C)C=O | C3H7NO
reactant | acetic acid | 3.0 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 0.61 g | [Zn] | Zn
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R,2S)-2-({N5-[(benzyloxy)carbonyl]-N2-[(1,4,5-trimethyl-1H-pyrrol-2-yl)carbonyl]-L-ornithyl}amino)cyclopentanecarboxylic acid | 0.19 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)C=1N(C(=C(C1)C)C)C)C(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C27H36N4O6
